US09085570B2
To a solution of methyl 4-[4-(3-hydroxypropyl)-5-methyl-1,3-oxazol-2-yl]benzoate (500 mg, 1.82 mmol, 1.00 equiv) and triethylamine (370 mg, 3.66 mmol, 2.01 equiv) in ethyl acetate (20 mL) at −5° C. was added methane sulfonyl chloride (0.27 g) dropwise with stiffing. The resulting solution was warmed to room temperature naturally and stirred at room temperature for 1 h. Water (20 mL) was added and the mixture was extracted with 1×30 mL of ethyl acetate. The organic layer was washed sequentially with 1×10 mL of 1 N hydrochloric acid, 1×10 mL of 5% sodium bicarbonate solution and 1×30 mL of brine. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to give 0.55 g (86%) of methyl 4-[4-[3-(methanesulfonyloxy)propyl]-5-methyl-1,3-oxazol-2-yl]benzoate as a white solid. LC-MS: (ES, m/z): 354 [M+H]+, 258, 146, 105.

reactant | methyl 4-[4-(3-hydroxypropyl)-5-methyl-1,3-oxazol-2-yl]benzoate | 1.82 mmol, 500 mg, 1.00 equiv | OCCCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C15H17NO4
reactant | triethylamine | 3.66 mmol, 370 mg, 2.01 equiv | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 0.27 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 20 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-[4-[3-(methanesulfonyloxy)propyl]-5-methyl-1,3-oxazol-2-yl]benzoate | 0.55 g, 86% | CS(=O)(=O)OCCCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C16H19NO6S
